US07208561B2
Tetrakis(bromopropyldimethylsiloxy)silane was synthesized by the following reactions starting from tetrakis(dimethylsiloxy)silane. Thus, allyloxytrimethylsilane was reacted with tetrakis(dimethylsiloxy)silane in the presence of a platinum 1,1,3,3-tetramethyl-1,3-divinyldisiloxane complex as catalyst to produce tetrakis(trimethylsiloxypropyldimethylsiloxy)silane, from which the trimethylsiloxy group was subsequently eliminated by the action of excess methanol to give tetrakis(hydroxypropyldimethylsiloxy)silane. Methanesulfonyl chloride was then reacted in pyridine with the tetrakis(hydroxypropyldimethylsiloxy)silane to give tetrakis(methanesulfonyloxypropyldimethylsiloxy)silane, which was subsequently reacted with sodium bromide in DMF to give tetrakis(bromopropyldimethylsiloxy)silane:

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | tetrakis(hydroxypropyldimethylsiloxy)silane | OCCC[Si](O[Si](O[Si](CCCO)(C)C)(O[Si](CCCO)(C)C)O[Si](CCCO)(C)C)(C)C | C20H52O8Si5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tetrakis(methanesulfonyloxypropyldimethylsiloxy)silane | CS(=O)(=O)OCCC[Si](O[Si](O[Si](CCCOS(=O)(=O)C)(C)C)(O[Si](CCCOS(=O)(=O)C)(C)C)O[Si](CCCOS(=O)(=O)C)(C)C)(C)C | C24H60O16S4Si5
